US04923932
Substantially the same reaction as in Examples 1 to 9 was conducted except that various alkenyl halides as shown in Table 5 were employed instead of allyl bromide. PPE-1 was used in Examples 17 and 18. Poly 2,6-dimethyl-1,4-phenylene ether [viscosity (ηsp/c): 0.59 (hereinafter referred to as PPE-4)] was used in Examples 19 to 21. A bifunctional polyphenylene ether obtained by oxidative polymerization of 2,6-dimethylphenol (hereinafter referred to as PPE-5) in the presence of bis (3,5-dimethyl-4-hydroxyphenyl) sulfone as a polyfunctional phenol compound was used in Example 22. Toluene/TMEDA (100 ml +2.5 ml) was used as a solvent instead of THF in Examples 19 and 22.

reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | 2,6-dimethyl-1,4-phenylene ether | CC1=C2C(=CC(=C1)O2)C | C8H8O
product | 2,6-dimethylphenol | CC1=C(C(=CC=C1)C)O | C8H10O
